US06518268B1
Preparation of 5-[2-(3,4-Dichloro-benzylsulfanyl)-pyrimidin-4-ylmethyl]-2-thioxo-thiazolidin-4-one
A suspension of 5-[2-(3,4-dichloro-benzylsulfanyl)-pyrimidin-4-ylmethylene]-2-thioxo-thiazolidin-4-one in toluene was heated to 80° C. in the presence of 2,6-dimethyl-1,4-dihydro-3,5-pyridine carboxylate (1.1 eq.) and activated silica gel. The suspension was filtered and rinsed with EtOAc. The filtrate was evaporated in vacuum and the resulting residue was redissolved in EtOAc and washed with 1N aq. HCl solution. The organic layer was dried over Na2SO4 and concentrated under vacuum to give the crude product. Flash chromatography afforded pure product.

reactant | 5-[2-(3,4-dichloro-benzylsulfanyl)-pyrimidin-4-ylmethylene]-2-thioxo-thiazolidin-4-one | ClC=1C=C(CSC2=NC=CC(=N2)C=C2C(NC(S2)=S)=O)C=CC1Cl | C15H9Cl2N3OS3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-[2-(3,4-Dichloro-benzylsulfanyl)-pyrimidin-4-ylmethyl]-2-thioxo-thiazolidin-4-one | ClC=1C=C(CSC2=NC=CC(=N2)CC2C(NC(S2)=S)=O)C=CC1Cl | C15H11Cl2N3OS3
